US05444072
10A. Methyl (E)-6-(1,3-dihydro-6-ethyl-4-hydroxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate
A solution of (E)-6-(1,3-dihydro-6-ethyl-4-hydroxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid in methanol (200 ml) was treated with p-toluenesulfonic acid (0.8 g) and stirred at 25° C. for 16 hours. The reaction mixture was cooled to 0° C. Methyl (E)-6-(1,3-dihydro-6-ethyl-4-hydroxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate, m.p. 116.5°-117.6, was collected by filtration.

reactant | (E)-6-(1,3-dihydro-6-ethyl-4-hydroxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid | C(C)C1=C(C(=C2C(OCC2=C1C)=O)O)C/C=C(/CCC(=O)O)\C | C18H22O5
reactant | p-toluenesulfonic acid | 0.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 200 ml | CO | CH4O
product | Methyl (E)-6-(1,3-dihydro-6-ethyl-4-hydroxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | C(C)C1=C(C(=C2C(OCC2=C1C)=O)O)C/C=C(/CCC(=O)OC)\C | C19H24O5
